US04254135
Trans-4-acetylamino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrate.
A solution of 19 g. of trans-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide in 500 ml of p-dioxane was cooled to 10° and 30 g of powdered anhydrous potassium carbonate was added. The mixture was stirred and kept cool while 4.7 g of acetyl chloride in 50 ml of methylene chloride was added dropwise. The mixture was allowed to warm to room temperature and stirred for 24 hr. The mixture was filtered, the solvent was removed under vacuum and the residue was crystallized from aqueous acetone. Yield was 73%, m.p. 123°-127° C.

reactant | trans-4-amino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide | NC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | C18H27N3O2
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetyl chloride | 4.7 g | C(C)(=O)Cl | C2H3ClO
solvent | p-dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Trans-4-acetylamino-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrate | Yield was 73% | O.C(C)(=O)NC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | InChI=1S/C20H29N3O3.H2O/c1-14(24)21-16-10-8-15(9-11-16)20(26)22(2)18-12-23(13-19(18)25)17-6-4-3-5-7-17;/h8-11,17-19,25H,3-7,12-13H2,1-2H3,(H,21,24);1H2/t18-,19-;/m1./s1
